US07208489B2
A mixture of 8-cyclopropyl-2-methylsulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (388 mg, 1.56 mmol) and 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (462 mg, 2.0 mmol) in toluene (5 mL) was heated at 100° C. for 18 hours. It was cooled to room temperature and the solid was collected by filtration and washed with toluene and dried to give 4-[6-(8-cyclopropyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (96 mg, 13%). 1H NMR δ (400 MHz, DMSO) 9.97 (s, 1H), 8.67 (s, 1H), 8.39 (d, J=9.3 Hz, 1H), 8.0 (d, J=2.95 Hz, 1H), 7.71 (d, J=9.3 Hz, 1H), 6.28 (d, J=9.3 Hz, 1H), 3.42 (br, 4H), 3.05 (br, 4H0, 2.80 (m, 1H), 1.37 (s, 9H), 1.20 (d, J=6.1 Hz, 2H), 0.76 (br, 2H).

reactant | 8-cyclopropyl-2-methylsulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.56 mmol, 388 mg | C1(CC1)N1C(C=CC2=C1N=C(N=C2)S(=O)C)=O | C11H11N3O2S
reactant | 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 2.0 mmol, 462 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[6-(8-cyclopropyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 96 mg, 13% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C=C2)=O)C2CC2 | C24H29N7O3
